US08106064B2
3-(3-{3-[2-Chloro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-phenyl)-acrylonitrile (134):
To a stirred solution of 3-{3-[2-chloro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-benzaldehyde (335 mg, 0.611 mmol) and diethyl cyanomethyl-phosphonate (104 μl, 0.64 mmol) in THF (10 ml) at 0° C. (ice bath) under nitrogen atmosphere, was added potassium t-butoxide (151 mg, 1.34 mmol). After stirring for 1 hr., the mixture was stirred for overnight at room temperature. The mixture was then diluted with EA, washed with aqueous saturated ammonium chloride solution, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA:hexanes (1:2)) to afford 243 mg (70%) of a white foam. 1H NMR (200 MHz, CDCl3) δ 1.10 (6H, d, J=6.8 Hz), 2.32 (3H, s), 2.68 (1H, m), 3.78 (3H, s), 4.30 (2H, d, J=5.2 Hz), 4.68 (2H, s), 5.23 (1H, t, J=5.2 Hz), 5.82 (1H, d, J=16.6 Hz), 6.05 (1H, s), 6.21 (1H, s), 6.62 (2H, s), 6.84-6.90 (2H, m), 6.97 (1H, s), 7.18-7.27 (3H, m), 9.63 (1H, s).

reactant | 3-{3-[2-chloro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-benzaldehyde | 0.611 mmol, 335 mg | ClC1=NC(=CC(=C1)CN1C(NC(C(=C1OC=1C=C(C=O)C=C(C1)C)C(C)C)=O)=O)NCC1=CC=C(C=C1)OC | C29H29ClN4O5
reactant | diethyl cyanomethyl-phosphonate | 0.64 mmol, 104 μl | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | potassium t-butoxide | 1.34 mmol, 151 mg | CC(C)([O-])C.[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EA | CC(OCC)=O | C4H8O2
product | 3-(3-{3-[2-Chloro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yloxy}-5-methyl-phenyl)-acrylonitrile | 243 mg, 70% | ClC1=NC(=CC(=C1)CN1C(NC(C(=C1OC=1C=C(C=C(C1)C)C=CC#N)C(C)C)=O)=O)NCC1=CC=C(C=C1)OC | C31H30ClN5O4
